US04622342
A mixture of 1-(4-hydroxyphenyl)propan-2-one (4.6 g) and 2-hydroxy-2-(3-chlorophenyl)ethanamine (5.2 g) in dry benzene (150 ml) was heated under reflux using a Dean and Stark head until the required amount of water had been collected. The solution was cooled, the solvent evaporated, the residue dissolved in methanol (20 ml), cooled in ice and treated portionwise with sodium borohyride (6.1 g) over 30 minutes. The mixture was stirred for 40 minutes, and the solvent removed under reduced pressure. Water was added to the residue and the mixture adjusted to pH 5 by addition of acetic acid followed by extraction with ethyl acetate. The extracts were washed with water, aqueous sodium bicarbonate and brine, dried (magnesium sulphate), filtered and evaporated to dryness. Chromatography of the residue on silica gel in 5% methanoldichloromethane gave N-[2-(4-hydroxyphenyl)-1-methylethyl]-2-hydroxy-2-(3-chlorophenyl)ethanamine mp 50°-5° C., of analytical purity as a 53:47 mixture of diastereoisomers.

reactant | 1-(4-hydroxyphenyl)propan-2-one | 4.6 g | OC1=CC=C(C=C1)CC(C)=O | C9H10O2
reactant | 2-hydroxy-2-(3-chlorophenyl)ethanamine | 5.2 g | OC(CN)C1=CC(=CC=C1)Cl | C8H10ClNO
reactant | water | O | H2O
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | N-[2-(4-hydroxyphenyl)-1-methylethyl]-2-hydroxy-2-(3-chlorophenyl)ethanamine | OC1=CC=C(C=C1)CC(C)NCC(C1=CC(=CC=C1)Cl)O | C17H20ClNO2
